US05866684
0.2 g (0.2 mmol) of N2-[N-[N-[N-[N-(carboxypropionyl)-L-α-aspartyl]-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl -L-valyl]-N1-[1(R)-(3a(S),4(S),5,6(S),7,7a(R)-hexahydro-3a,5,5-trimethyl-4,6-methano-1,3,2-benzodioxaborol-2-yl)pentyl]-L-leucinamide was dissolved in 12 ml of acetone and 12 ml of 0.1M ammonium acetate in water were added. 0.21 g (1 mmol) of sodium periodate was added and the resulting mixture was stirred at room temperature for 22 hours. 7 ml of water were then added together with a small amount of sodium periodate. The resultingsolution was stirred for a further 5 hours. The acetone was removed under avacuum and the aqueous residue was acidified with 2N hydrochloric acid and then extracted with ethyl acetate. Saturated aqueous sodium chloride was added to the aqueous layer which was then extracted with ethyl acetate. The organic extracts were combined, dried over sodium sulphate and evaporated. The residue was trituated with diethyl ether, filtered off anddried to give 167 mg of 1(R)-[[N-[N-[N-[N-[N-(3-carboxypropionyl)-L-α-aspartyl]-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucyl]amino]pentylboronic acid as a white solid; MS: m/e 845.4 [M+H-H2O]+.

reactant | N2-[N-[N-[N-[N-(carboxypropionyl)-L-α-aspartyl]-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl -L-valyl]-N1-[1(R)-(3a(S),4(S),5,6(S),7,7a(R)-hexahydro-3a,5,5-trimethyl-4,6-methano-1,3,2-benzodioxaborol-2-yl)pentyl]-L-leucinamide | 0.2 mmol, 0.2 g | C(=O)(O)CCC(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](CCC(O)=O)C(=O)N[C@@H](CC1=C(C=CC=C1)C)C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCC)B1O[C@@]2([C@H](O1)C[C@H]1C([C@@H]2C1)(C)C)C | C50H77BN6O14
reactant | ammonium acetate | 0.1M, 12 ml | C(C)(=O)[O-].[NH4+]
reactant | sodium periodate | 1 mmol, 0.21 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | acetone | 12 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
solvent | water | 7 ml | O | H2O
product | 1(R)-[[N-[N-[N-[N-[N-(3-carboxypropionyl)-L-α-aspartyl]-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucyl]amino]pentylboronic acid | 167 mg | C(=O)(O)CCC(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](CCC(O)=O)C(=O)N[C@@H](CC1=C(C=CC=C1)C)C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCC)B(O)O | C40H63BN6O14
